US08067590B2
4-Benzyloxy-1-[2-(3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-ethyl]-1H-pyridin-2-one
To 100 mg (0.27 mmol) 4-benzyloxy-1-[2-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-ethyl]-1H-pyridin-2-one (preparation 23.2) in 5.0 mL THF is added 43 μL (0.53 mmol) aqueous 37% formaldehyde solution. The mixture is acidified with acetic acid and then 62 mg (0.29 mmol) sodium triacetoxy-borohydride is added. The reaction mixture is stirred 3 h at RT and is diluted with aqueous saturated NaHCO3-solution. The mixture is stirred additional 1 h at RT, the layers are separated and the aqueous phase is extracted three times with DCM/MeOH. The combined organic phase is dried over MgSO4, filtered and the solvent is evaporated to afford the product.

reactant | 4-benzyloxy-1-[2-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-ethyl]-1H-pyridin-2-one | 0.27 mmol, 100 mg | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CCC1=CC2=C(CCNCC2)C=C1)=O | C24H26N2O2
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy-borohydride | 0.29 mmol, 62 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-Benzyloxy-1-[2-(3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-ethyl]-1H-pyridin-2-one | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CCC1=CC2=C(CCN(CC2)C)C=C1)=O | C25H28N2O2
